US04071627
A mixture of 5.8 g of 2-oximino-3,3-dimethyltetrahydro-1,4-thiazin-5-one, 200 ml dioxane, 2.1 g powdered potassium hydroxide and 0.1 g dicyclohexyl-18-crown-6, was charged to a stirred flask and 5.3 g of N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride was added at 30° C over a 1-minute period. The reaction mixture was stirred overnight at room temperature and then added to cold water and stirred for 5 minutes. The resulting mixture was extracted with methylene chloride. The methylene chloride layer was washed thoroughly with water and then dried with magnesium sulfate. The methylene chloride was stripped from the product under reduced pressure and the crystalline residue was recrystallized from ethylene acetate to provide 7.0 g of 2-[O-(N-Dimethylaminosulfenyl-N-methylcarbamoyl)oximino]-3,3-dimethyltetrahydro-1,4-thiazin-5-one, m.p. 165°-167° C. An nmr spectrum supported the proposed structure.

reactant | 2-oximino-3,3-dimethyltetrahydro-1,4-thiazin-5-one | 5.8 g | N(O)=C1SCC(NC1(C)C)=O | C6H10N2O2S
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride | 5.3 g | CN(C(=O)F)SN(C)C | C4H9FN2OS
catalyst | dicyclohexyl-18-crown-6 | 0.1 g | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | water | O | H2O
product | 2-[O-(N-Dimethylaminosulfenyl-N-methylcarbamoyl)oximino]-3,3-dimethyltetrahydro-1,4-thiazin-5-one | 7.0 g | CN(SN(C(=O)ON=C1SCC(NC1(C)C)=O)C)C | C10H18N4O3S2
